US06911543B2
Oxalyl chloride (1.77 mL, 20.1 mmol) is combined with CH2Cl2 (60 mL) in a dried flask under nitrogen, cooled to −78° C., treated dropwise with DMSO (2.86 mL, 40.25 mmol) and stirred for 20 min. The cooled solution is treated drop-wise with a solution of (3-bromofuro[2,3-c]pyridin-5-yl)methanol (4.0 mg, 17.5 mmol) in THF (50 mL), stirred for 1 h, then treated drop-wise with Et3N (12.2 mL, 87.5 mmol). The mixture is stirred for 30 min at −78° C., then 30 min at 0° C. The mixture is washed with saturated NaHCO3 (120 mL) and the organics dried over K2CO3 and concentrated in vacuo to a dark yellow solid (3.91 g). The crude material is chromatographed over 150 g slurry-packed silica gel, eluting with 30% EtOAc/hexane. The appropriate fractions are combined and concentrated in vacuo to afford 3.93 g (99%) of 3-bromofuro[2,3-c]pyridine-5-carbaldehyde as a white solid. MS (EI) m/z: 225 (M+).

reactant | Oxalyl chloride | 20.1 mmol, 1.77 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 40.25 mmol, 2.86 mL | CS(=O)C | C2H6OS
reactant | (3-bromofuro[2,3-c]pyridin-5-yl)methanol | 17.5 mmol, 4.0 mg | BrC1=COC2=CN=C(C=C21)CO | C8H6BrNO2
reactant | Et3N | 87.5 mmol, 12.2 mL | CCN(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-bromofuro[2,3-c]pyridine-5-carbaldehyde | 3.93 g, 99% | BrC1=COC2=CN=C(C=C21)C=O | C8H4BrNO2
